US06777406B2
(±)-cis-11-benzyl-6,7,10,11,12,12a-hexahydro-5H-[1,4]oxazepino[2,3,4-ij]pyrrolo[3,4-c]quinolin-9(9aH)-one
A solution of 2,3,4,5-tetrahydro-1,5-benzoxazepine (2.6 g, 17.4 mmol) in 20 mL of methylene chloride and 20 mL of 1N NaOH was degassed with a stream of argon and then there was added di-tert-butyl dicarbonate (4.2 g, 19.2 mmol). The resulting two-phase mixture was stirred at 40° C. for 24 h with vigorous stirring. The reaction mixture was cooled, diluted with ethyl acetate, washed with H2O and brine, dried (MgSO4) and concentrated. The residue was purified by flash chromatography (elution with 8:1 hexane/ethyl acetate) to afford 2.3 g (53%) of the title compound of Part A. 1H NMR (CDCl3) δ: 7.21 (broad s, 1H), 7.10 (dd, 1H, J=8.1, 1.5 Hz), 7.00 (app d, 2H, J=7.4 Hz), 4.20-4.07 (broad m, 2H), 3.77-3.65 (broad m, 2H), 2.12-2.02 (m, 2H), 1.42 (broad s, 9H).

reactant | 2,3,4,5-tetrahydro-1,5-benzoxazepine | 17.4 mmol, 2.6 g | O1CCCNC2=C1C=CC=C2 | C9H11NO
reactant | di-tert-butyl dicarbonate | 19.2 mmol, 4.2 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
solvent | NaOH | 1N, 20 mL | [OH-].[Na+]
product | (±)-cis-11-benzyl-6,7,10,11,12,12a-hexahydro-5H-[1,4]oxazepino[2,3,4-ij]pyrrolo[3,4-c]quinolin-9(9aH)-one | 2.3 g, 53% | C(C1=CC=CC=C1)N1C[C@H]2C(N3C4=C(C=CC=C4[C@H]2C1)OCCC3)=O | C21H22N2O2
